US05281715
2-(1,3-Dioxolanyl)-5-nitropyridine was prepared from 5-nitropyridine-2-carboxaldehyde by the procedure employed for the synthesis of Example III. Yield: 2.0 g (84%); mp 104°-105° C.; TLC Rf 0.73 (CH2Cl2 /EtOAc, 1:1, v/v); 1H NMR (90 MHz, CDCl3) δ 4.10 (s, 4H, CH2CH2), 5.92 (s, 1H, 2-CH), 7.72 (d, 1H, 3-H, J3,4 =8 Hz), 8.50 (dd, 1H, 4-H, J3,4 =8 Hz, J4,6 =2 Hz), 9.42 (d, 1H, 6-H, J4,6 =2 Hz). Anal.(C8H8N2O4) C, H, N.

reactant | 5-nitropyridine-2-carboxaldehyde | [N+](=O)([O-])C=1C=CC(=NC1)C=O | C6H4N2O3
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
product | 2-(1,3-Dioxolanyl)-5-nitropyridine | O1C(OCC1)C1=NC=C(C=C1)[N+](=O)[O-] | C8H8N2O4
